US04596819
(2S)-Phenylmethyl 2-[[[1-[[2-(1,1-dimethylethoxy)-2-oxoethoxy]methyl]-2-phenylethyl]amino]carbonyl]-1-pyrrolidinecarboxylate (side chain in 2 position is (±) mixture), 0.5 g (0.0010 mol), is dissolved in 30 ml of trifluoroacetic acid at 0° C. The mixture is allowed to stand 30 minutes at 0° C. and then allowed to reach room temperature over one hour and the solvent evaporated in vacuo at 25° C. The residue is dissolved in 100 ml of dichloromethane and washed with a saturated aqueous solution of sodium chloride, 2×100 ml. The dichloromethane layer is separated, dried over sodium sulfate, evaporated in vacuo, and the residue purified by chromatography using silica gel and eluting with dichloromethane methanol (95:5) to give (2S)-phenylmethyl 2-[[[1-[(carboxymethoxy)methyl]-2-phenylethyl]amino]carbonyl]-1-pyrrolidinecarboxylate (center on chain in 2 position is a mixture of isomers), 0.39 g; [α]D25 -52.2° (c 0.23, methanol).

reactant | (2S)-Phenylmethyl 2-[[[1-[[2-(1,1-dimethylethoxy)-2-oxoethoxy]methyl]-2-phenylethyl]amino]carbonyl]-1-pyrrolidinecarboxylate | CC(C)(OC(COCC(CC1=CC=CC=C1)NC(=O)[C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1)=O)C | C28H36N2O6
solvent | trifluoroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (2S)-phenylmethyl 2-[[[1-[(carboxymethoxy)methyl]-2-phenylethyl]amino]carbonyl]-1-pyrrolidinecarboxylate | C(=O)(O)COCC(CC1=CC=CC=C1)NC(=O)[C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1 | C24H28N2O6
